US08097652B2
Stir a solution of (2R)-propane-2-sulfonic acid {2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-amide (50 g, 136.2 mmol), Ethyl 3-Cyano-4-trifluoromethanesulfonyloxy-benzoate (40 g, 123.8 mmol), PdCl2(dppf).DCM (3.03 g, 3.71 mmol) and KOAc (36.43 g, 371.4 mmol) in DME:EtOH:H2O (200 mL/200 mL/200 mL) under nitrogen at 80° C. for 50 minutes. Pour the reaction mixture into ice-water and extract it with EtOAc. Wash the organic layer with water and saturated aq. sodium chloride solution, dry over MgSO4, filter and concentrate it in vacuo. Subject residue to silica gel chromatography eluting with hexane/EtOAc 4:1 to 3:1. Triturate the product in hexane, filter and dry, to yield 37.95 g of 1-(S)-Ethyl 2-Cyano-4′-[1-methyl-2-(propane-2-sulfonylamino)-ethyl]-biphenyl-4-carboxylate (74%). MS(ES): m/z=413.1 [M-H].

reactant | (2R)-propane-2-sulfonic acid {2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-amide | 136.2 mmol, 50 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)[C@H](CNS(=O)(=O)C(C)C)C)C | C18H30BNO4S
reactant | Ethyl 3-Cyano-4-trifluoromethanesulfonyloxy-benzoate | 123.8 mmol, 40 g | C(#N)C=1C=C(C(=O)OCC)C=CC1OS(=O)(=O)C(F)(F)F | C11H8F3NO5S
reactant | DCM | 3.71 mmol, 3.03 g | C(Cl)Cl | CH2Cl2
reactant | KOAc | 371.4 mmol, 36.43 g | CC(=O)[O-].[K+]
solvent | DME | COCCOC | C4H10O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 200 mL | O | H2O
solvent | EtOH | CCO | C2H6O
product | 1-(S)-Ethyl 2-Cyano-4′-[1-methyl-2-(propane-2-sulfonylamino)-ethyl]-biphenyl-4-carboxylate | 37.95 g, 74% | C(#N)C1=C(C=CC(=C1)C(=O)OCC)C1=CC=C(C=C1)[C@@H](CNS(=O)(=O)C(C)C)C | C22H26N2O4S
